US05250522
To a suspension of (S)-2-amino-3-(biphenyl-4-yl)-propionic acid methyl ester hydrochloride (J. Org. Chem., 1992, 57, 379; 10 g, 34.3 mmol) in water (200 mL) is added solid sodium bicarbonate (3.17 g, 37.7 mmol). The mixture is stirred for 30 minutes and then extracted with ether (3×80 mL). The combined organic phases are washed with brine (50 mL) and then dried over anhydrous magnesium sulfate. Evaporation of the solvent in vacuo affords (S)-2-amino-3-(biphenyl-4-yl)-propionic acid methyl ester as a white solid.

reactant | (S)-2-amino-3-(biphenyl-4-yl)-propionic acid methyl ester hydrochloride | 34.3 mmol, 10 g | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O
reactant | sodium bicarbonate | 37.7 mmol, 3.17 g | C([O-])(O)=O.[Na+]
solvent | water | 200 mL | O | H2O
product | (S)-2-amino-3-(biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O | C16H17NO2
